US06331521B1
To a suspension of a mixture of methyl 4-[5-(4-hydroxyphenyl)thiazol-2-yl]benzoate and 4-[5-(4-hydroxyphenyl)thiazol-2-yl]benzoic acid (1.0 g), potassium carbonate (930 mg) in N,N-dimethylformamide (5 ml) was added n-hexylbromide (0.95 ml), and stirred at 100° C. (bath temperature). After 3.5 hours, to the reaction mixture was additionally added n-hexylbromide (0.25 ml), and stirred at 100° C. (bath temperature) for 1 hour. After cooling, the mixture was added to 0.1N hydrochloric acid (100 ml). The resulting precipitate was collected by filtration, washed with water, and dried overnight. To this material was added the solution of tetrahydrofuran (20 ml), methanol (20 ml) and 10% sodium hydroxide aqueous solution (2.5 ml). The mixture was refluxed for 2 hours. After cooling, the reaction mixture was diluted with water (100 ml), and adjusted to pH 2 with 1N hydrochloric acid. The resulting precipitate was collected by filtration. The solid was collected by filtration, washed with water and acetonitrile, and dried to give 4-[5-(4-hexyloxyphenyl)thiazol-2-yl]benzoic acid (621 mg).

reactant | methyl 4-[5-(4-hydroxyphenyl)thiazol-2-yl]benzoate | OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C(=O)OC)C=C1 | C17H13NO3S
reactant | 4-[5-(4-hydroxyphenyl)thiazol-2-yl]benzoic acid | 1.0 g | OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C(=O)O)C=C1 | C16H11NO3S
reactant | potassium carbonate | 930 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexylbromide | 0.95 ml | C(CCCCC)Br | C6H13Br
reactant | n-hexylbromide | 0.25 ml | C(CCCCC)Br | C6H13Br
reactant | hydrochloric acid | 0.1N, 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[5-(4-hexyloxyphenyl)thiazol-2-yl]benzoic acid | 621 mg | C(CCCCC)OC1=CC=C(C=C1)C1=CN=C(S1)C1=CC=C(C(=O)O)C=C1 | C22H23NO3S
